US05472962
5 g of 6-methoxy-2-(1-cyclohexenyl)benzo[b]thiophene was dissolved in 20 ml of ethyl acetate, 800 mg of 5% palladium-carbon was added, and hydrogenation was carried out at room temperature and at atmospheric pressure. The reaction mixture was filtered, and the filtrate was concentrated to obtain 2.5 g of 6-methoxy-2-cyclohexylbenzo[b]thiophene.

reactant | 6-methoxy-2-(1-cyclohexenyl)benzo[b]thiophene | 5 g | COC=1C=CC2=C(SC(=C2)C2=CCCCC2)C1 | C15H16OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 800 mg | [C].[Pd]
product | 6-methoxy-2-cyclohexylbenzo[b]thiophene | 2.5 g | COC=1C=CC2=C(SC(=C2)C2CCCCC2)C1 | C15H18OS
